US06825188B2
b) Methyl (S)-8-(3-amino-1-propyloxy)-3-oxo-2-[4-(trifluoromethyl)benzyl]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
To methyl (S)-8-[3-(4-nitrobenzyloxycarbonylamino)-1-propyloxy]-3-oxo-2-[4-(trifluoromethyl)benzyl]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (0.12 g, 0.19 mmol) in MeOH (2 mL) was added 10% Pd/C (20 mg). The reaction vessel was flushed with hydrogen and then fitted with a hydrogen-filled balloon. After 4.5 h, the hydrogen was vented and the catalyst was removed by filtration through celite®. Removal of solvent gave the title compound (0.09 g) as a pale yellow residue. This material was used without further purification. MS (ES) m/e 465.3 (M+H)+.

reactant | methyl (S)-8-[3-(4-nitrobenzyloxycarbonylamino)-1-propyloxy]-3-oxo-2-[4-(trifluoromethyl)benzyl]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.19 mmol, 0.12 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCOC2=CC3=C(C[C@H](C(N(C3)CC3=CC=C(C=C3)C(F)(F)F)=O)CC(=O)OC)C=C2)C=C1 | C32H32F3N3O8
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | Methyl (S)-8-(3-amino-1-propyloxy)-3-oxo-2-[4-(trifluoromethyl)benzyl]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.09 g | NCCCOC1=CC2=C(C[C@H](C(N(C2)CC2=CC=C(C=C2)C(F)(F)F)=O)CC(=O)OC)C=C1 | C24H27F3N2O4
